US07388103B2
Ethyl 1-n-propyl-2-benzoyloxy-cyclopentane carboxylate
Ethyl 2-hydroxy-1-n-propyl-cyclopentane carboxylate (6.00 g) was diluted using 60 ml of methylene chloride. At room temperature and with magnetic stirring, pyridine (3.67 ml) was slowly added, then benzoyl chloride (5.33 ml, 0.045 mol) was dropwise added. Upon the completion of the addition, the reaction was continued for 12 hours. Then solvent was removed, and the residue was extracted using ethyl acetate and water. Organic layer was washed, in turn, using 10% hydrochloric acid aqueous solution to pH of about 2, using saline solution to neutrality, using 10% aqueous solution of sodium carbonate for three times, and then using saline solution to neutrality. The organic layer was dried, and removing solvent gave 10.00 g of yellow liquid, MS: m/e 305(M+″+1), 304(M+), 259, 230, 199, 182, 153, 105(base), 77.

reactant | Ethyl 2-hydroxy-1-n-propyl-cyclopentane carboxylate | 6.00 g | OC1C(CCC1)(C(=O)OCC)CCC | C11H20O3
reactant | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
reactant | benzoyl chloride | 0.045 mol, 5.33 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 3.67 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-n-propyl-2-benzoyloxy-cyclopentane carboxylate | 10.00 g | C(CC)C1(C(CCC1)OC(C1=CC=CC=C1)=O)C(=O)OCC | C18H24O4
